* Generated by electronics_design from a KiCad schematic
.include "bipmod.lib"
C1 N011 N007 30p
Q8 N001 N001 Vcc 0 PN
Q7 Vcc N003 N004 0 NP
Q22 N007 N012 Vee 0 NP
Q16 N011 N014 N015 0 NP
V3 In 0 SINE(0 0.1 1k)
Q4 N007 N005 N006 0 PN
Q19 N015 N013 N012 0 NP
Q20 Vee N015 N017 0 PN
Q1 N001 Ninv N002 0 NP
Rex1 Ninv 0 1u
R2 N004 Vee 50k
R8 N013 Vee 50k
Q17 N011 N016 Out 0 NP
Q12 N010 N010 Vcc 0 PN
Q15 N015 N007 N013 0 NP
R10 N016 Out 25
Q2 N001 Inv N006 0 NP
R7 N014 N015 7.5k
R5 N010 N009 39k
Rin1 In Inv 1k
R9 N012 Vee 50
V2 0 Vee 15
Rfb1 Inv Out 10k
Q3 N003 N005 N002 0 PN
V1 Vcc 0 15
R3 O2 Vee 1k
Q11 N009 N009 Vee 0 NP
R6 N011 N014 4.5k
Q14 Vcc N011 N016 0 NP
R11 Out N017 50
R1 O1 Vee 1k
Q5 N003 N004 O1 0 NP
R4 N008 Vee 5k
Q6 N007 N004 O2 0 NP
Q10 N005 N009 N008 0 NP
Q13 N011 N010 Vcc 0 PN
Q9 N005 N001 Vcc 0 PN
.tran 10u 10m
.backanno
.end
