* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL O1
* KICAD_SINGLETON_LABEL O2
.include "741.lib"
V3 In 0 SINE(0 0.1 1k)
Rin1 In Inv 1k
V2 0 Vee 15
Rfb1 Inv Out 10k
V1 Vcc 0 15
* KICAD_SYMBOL_LIB_ID XU1 Amplifier_Operational:LM741
* KICAD_SIM_PINS XU1 1=1 2=2 3=3 4=4 5=5 6=6 7=7
* KICAD_VALUE XU1 LM741
XU1 O1 Inv Ninv Vee O2 Out Vcc KI741
Rex1 Ninv 0 1u
.tran 1
.backanno
.end
