* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL Trig
.include "bipmod.lib"
Q16 N011 N014 N013 0 PN
Q22 N018 N010 0 0 NP
Q7 0 Trig N007 0 PN
Q5 N017 N004 Vcc 0 PN
Q3 N002 Reset N003 0 PN
R8 Vcc N022 6.2k
R13 Vcc Dis 20k
Q15 N013 N015 N012 0 PN
R3 Vcc Vctrl 5k
Q1 N004 N004 Vcc 0 PN
Q26 N019 N020 0 0 NP
R11 N024 N021 120
Q32 Out N024 0 0 NP
C2 Vctrl 0 10n
R6 N015 N003 7.5k
Q14 N011 N011 0 0 NP
R14 Threas Dis 20k
Q2 N004 Threas N001 0 NP
Q24 N020 N018 0 0 NP
Q9 N010 N007 N013 0 PN
R2 Vcc N012 1k
Q6 N004 N001 N005 0 NP
Q30 0 N022 Out 0 PN
Q31 Vcc N023 Out 0 NP
Q17 0 N016 N014 0 PN
R7 N019 N018 4.7k
R1 N005 0 10k
Q10 N008 N009 N005 0 NP
V3 Reset 0 PULSE(0 15 0 1u 1u 5m 10m)
Q23 N015 N015 Vcc 0 PN
Q11 N008 N008 Vcc 0 PN
R9 N021 N002 100
Q28 N022 N019 N021 0 NP
Q12 N008 Vctrl N009 0 NP
Q19 N017 N006 0 0 NP
C1 Threas 0 10n
R10 N021 0 3.3k
R5 N016 0 5k
V1 Vcc 0 15
Q20 N015 N015 Vcc 0 PN
R12 N023 Out 3.9k
R4 Vctrl N016 5k
Q21 N003 N017 N018 0 NP
Q25 N019 N015 Vcc 0 PN
Q4 Dis N002 0 0 NP
Q29 Vcc N022 N023 0 NP
Q18 N006 N006 0 0 NP
Q13 N010 N011 0 0 NP
Q27 N003 N003 N020 0 NP
Q8 N006 N008 Vcc 0 PN
.tran 1u 12m
.backanno
.end
