* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\Astable-multivibrator.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N001 N002 1k
R2 N001 N003 100k
R3 N001 N004 100k
R4 N001 N005 1k
Q1 N005 N003 0 0 BC547B
Q2 N002 N004 0 0 BC547B
V1 N001 0 9
C1 N002 N003 1µ
C2 N005 N004 1µ
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1s
* Astable multivibrator
.backanno
.end
