* D:\home\brosnan\books\circuits\Circuits-LTSpice\Current limiting circuits\BJT-for-simple-current-regulation.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vin 0 5
R1 Vin N001 47
R2 N003 N002 4.2k
R§Potenziometro N002 0 {10k*(1-x)}
Q1 N001 N003 0 0 2N3904
R§Pot Vin N002 {10k*x}
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.step param x 1n 0.99 0.5
.tran 1s
* Adjusting the potentiometer, the current through R1 is (approximately)\nlinearly regulated.
* Sizing: \n \nAssume BJT works in saturation -> Vce = 0.3. On the load the voltage drop is 4.7V,\nAssume the load draws 100 mA.\n \nBase current for the polarization is Ic/hfe. Assuming a hfe of 100 the required base\ncurrent is 100ma/100 = 1mA\n \nVbe is fixed at 0.8 V (PN junction). I set R2 so as to have exactly 1 mA of base current\ni.e. R2 = 4.2/0.001 = 4.2k
* BJT for simple current regulation
.backanno
.end
