* Generated by electronics_design from a KiCad schematic
.model D D
.model NMOS NMOS
R2 out 0 R = 'time > 3m ? 60 : 120'
D1 sout out D
R1 in N001 2.2m
V3 in 0 PULSE(0 2.5 0 0.5m 0.5m 1 2)
V1 gg 0 PULSE(0 10 0 20n 20n {ducyc/freq} {1/freq})
C2 out 0 4.7u
M1 sout gg 0 0 NMOS
L1 N001 sout 5u Rser=1m
.options chgtol=1e-11 abstol=10u
.param freq=1Meg ducyc=0.6
.tran 1
.backanno
.end
