* Generated by electronics_design from a KiCad schematic
.include "IRF-Power-VDMOS.mod"
.model D D
C101 VOUT 0 ${SIM.PARAMS}
M1 gg VIN PWM_OUT 0 IRF540N
V102 VIN 0 12
D101 0 PWM_OUT D
R103 VOUT 0 ${SIM.PARAMS}
L101 PWM_OUT VOUT ${SIM.PARAMS} Rser=1m
V101 PWM_IN 0 PULSE(0 15 20n 20n 20n 25u 50u)
R101 gg PWM_IN ${SIM.PARAMS}
.tran 1
.backanno
.end
