* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL Fb1
.model PNP PNP
.model D D
.model NMOS NMOS
.include "DAudioDriver.lib"
.model NPN NPN
R15 0 out 2
C4 B+ N009 220p
V3 Vcc B- 12
R14 Vs Fb1 10k
C2 N002 B- 2.2u
Q5 Vs N004 N005 0 PNP
V2 0 B- 103
C7 N011 0 100n
C3 N001 Vs 2.2u
R6 B- N010 10
Q4 B- N003 N006 0 PNP
V1 B+ 0 103
R13 0 out 10k
D2 N007 N005 D
R7 N004 HO 10
V5 Ain 0 SINE(0 2 1k) AC 1
R8 N005 N004 10
R1 N002 Vcc 10
D5 N008 N006 D
M2 B+ N007 Vs 0 NMOS
R3 N008 N006 10
R10 Vs N009 10
R11 0 Fb2 1k
C5 out 0 680n
R5 N006 N003 10
* KICAD_SYMBOL_LIB_ID XU1 AudioDriver:AudioDriver1
* KICAD_SIM_PINS XU1 3=hi+ 4=hi- 5=lo+ 6=lo- 7=ain
* KICAD_VALUE XU1 AudioDriver1
XU1 HO Vs LO B- Ain DAudioDriver freq=317k dtime=50n voutp=12 voutn=0
C6 out Fb2 4.4n
Q1 N001 N004 N005 0 NPN
V4 Vb Vs 12
D3 B- out D
R12 N011 out 10
R9 N007 N005 10
L1 Vs out 16u Rser=1m
R2 N001 Vb 10
D1 out B+ D
Q3 N002 N003 N006 0 NPN
C1 Vs N010 220p
M6 Vs N008 B- 0 NMOS
R4 N003 LO 10
.options chgtol=1e-11 abstol=1u
.tran 1
.backanno
.end
