* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\Common-emitter-BJT.asc
* Generated by LTspice 26.0.1 for Windows.
V§IN_E_BIAS N002 0 SINE(1 10m 1000)
R1 N003 N002 2.4k
R2 N001 Vcc 240
Q1 N001 N003 0 0 2N2222
V2 Vcc 0 12
C1 OUT N001 1µ
R4 OUT 0 10k
C2 IN N002 1µ
R6 IN 0 10k
R9 N006 N005 2.4k
R7 N004 Vcc 240
Q2 N004 N006 N007 0 2N2222
C3 OUT2 N004 1µ
R11 OUT2 0 10k
C4 IN2 N005 1µ
R10 IN2 0 10k
V§Signal N005 0 SINE(1 10m 1000)
Re N007 0 120
Cb N007 0 1000µ
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10ms
* Input signal (filtered)
* Output signal amplified and phase shifted by 180 deg
* Inverting amplifier with gain equal to - R2 * beta / R1
* Inverting amplifier with negative feedback Re resistor which exploits the feedback\nmechanism to allow for a gain which is less dependent on beta. Bypass capacitor\nCb short circuits Re at high frequencies, to avoid that Re reduces the gain.
* Cb and Re form a low pass filter
* Another option is to separate Re in 2 parts: one in series (Re1) and the other in parallel to Cb.\nThis would allow to obtain a gain independent of the BJT parameters and equal to\n -Rc * Rl/(Rc * RL) / Re1 with Rc = R7, RL = R11
* Input signal (filtered)
* Output signal amplified and phase shifted by 180 deg
* Common emitter BJT
.backanno
.end
