* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\Double-stage-common-emitter-amplifier.asc
* Generated by LTspice 26.0.1 for Windows.
C1 N003 N002 1µ
R1 Vcc N003 4.7k
R2 N003 0 1k
R3 Vcc Vout_stage1 4.7k
R4 N005 0 1k
C2 N005 0 20µ
Q1 Vout_stage1 N003 N005 0 2N3904
V_signal N002 0 AC 1
V2 Vcc 0 9
C3 N001 Vout_stage1 1µ
R5 Vcc N001 4.7k
R6 N001 0 1k
R7 Vcc Vout 4.7k
Q2 Vout N001 N004 0 2N3904
R8 N004 0 1k
R9 N006 0 50
C4 N004 N006 20µ
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 1000 1 100Meg
* Stage 1: +27 dB
* Stage 2: +36 dB
* R9 reduces a bit the gain to stabilize the circuit
* Double stage common emitter amplifier
.backanno
.end
