* D:\home\brosnan\books\circuits\Circuits-LTSpice\Transformer\Example-of-mutually-coupled-inductors.asc
* Generated by LTspice 26.0.1 for Windows.
L1 0 N003 4m
L2 0 N004 1m
R1 N002 N003 5
R2 N001 N002 2
I1 0 N001 SINE(0 10 159.15)
I2 0 N002 2
R3 N004 0 1
.tran 20ms
K L1 L2 0.9
* Example of mutually coupled inductors
.backanno
.end
