* Generated by electronics_design from a KiCad schematic
.include "IXTH80N20L.lib"
V4 VSD 0 PULSE(5 0 0.65m 200n 200n 100u 10)
C2 HO2 VS2 4.7u
V1 VCC 0 15
V5 Vin2 0 PULSE(5 0 0.25m 200n 200n 10u 20u)
Q3 VDC N004 VS2 0 IXTH80N20L
R1 HO1 N001 4.7
R3 N003 LO2 4.7
Q4 VS2 N003 0 0 IXTH80N20L
C1 VB1 VS1 4.7u
Q2 VS1 N002 0 0 IXTH80N20L
V2 VDC 0 PULSE(0 200 0 0.25m 1m 10 10)
R2 LO1 N002 4.7
* KICAD_SYMBOL_LIB_ID XU1 Driver_FET:IR2109
* KICAD_SIM_PINS XU1 5=1 7=2 4=3 2=4 1=5 8=6 6=7 3=8
XU1 LO1 HO1 0 Vin1 VCC VB1 VS1 VSD 2ED2109S06F
R4 N004 N005 4.7
V3 Vin1 0 PULSE(0 5 0.25m 200n 200n 10u 20u)
Q1 VDC N001 VS1 0 IXTH80N20L
* KICAD_SYMBOL_LIB_ID XU2 Driver_FET:IR2109
* KICAD_SIM_PINS XU2 5=1 7=2 4=3 2=4 1=5 8=6 6=7 3=8
XU2 LO2 N005 0 Vin2 VCC HO2 VS2 VSD 2ED2109S06F
RL1 VS1 VS2 10
.options abstol=1u chgtol=1e-12 reltol=0.01 method=gear
.tran 1
.backanno
.end
