* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL Pin11
.include "bipmod.lib"
.model D D
R27 Pin2 N015 800
Q22 N047 N054 0 0 NP
R38 N032 N028 375
Q20 N047 N049 0 0 NP
R23 N013 0 5k
Q26 Pin6 N052 N004 0 NP
R24 Pin3 Pin2 1k
Rex6 Pin1 Pin6 82k
Q30 0 N005 N009 0 PN
Q53 Pin6 Pin1 N033 0 NP
Q21 N049 N055 0 0 NP
R39 N028 N035 330
Q47 Pin6 N035 N020 0 NP
R48 Pin2 N016 800
R21 Pin6 N012 5k
R22 N012 N013 5k
Q15 N051 Pin5 Pin4 0 PN
R17 Pin6 N002 4k
R13 N053 0 100
Q46 0 N020 N018 0 PN
R45 N030 0 33k
R26 Pin2 N014 2.7k
Q4 Pin6 N040 N038 0 NP
Rex3 Pin4 Pin6 10k
R14 N037 N047 1.8k
Q40 Pin6 N026 N014 0 NP
R36 Pin1 N032 200
Q19 N048 N048 N053 0 NP
R28 Pin6 N021 33k
R40 N035 N036 1600
R3 Pin6 Pin7 11k
Q25 N002 Pin10 N003 0 NP
R32 Pin12 0 5.6k
R11 N040 N049 27k
Q43 0 N031 N029 0 PN
Rex2 Pin5 Pin6 10k
Q3 Pin9 N039 0 0 NP
Q50 0 N033 Pin2 0 PN
Q8 Pin5 N044 N045 0 NP
R25 Pin2 N019 10k
Q28 N055 N001 N006 0 PN
R19 N005 0 27k
D2 N023 N024 D
Q7 Pin5 Pin5 Pin8 0 NP
D5 N022 0 D
R46 N033 0 33k
Q2 Pin6 N023 N037 0 NP
R5 N038 N039 270
Q36 Pin6 N012 N011 0 NP
R8 N046 0 100
R34 Pin6 N031 375
Q52 Pin6 N032 N030 0 NP
Q6 N044 Pin5 Pin5 0 PN
R16 N054 0 4.7k
R29 Pin6 N026 33k
Q18 Pin10 N042 N048 0 NP
Q31 Pin6 N011 N007 0 NP
Q17 N052 N052 Pin10 0 NP
D3 N024 N025 D
Q27 N002 N003 N007 0 NP
R10 N047 N043 470
Q24 N055 Pin10 N001 0 PN
Q9 Pin5 N045 N041 0 NP
R31 Pin6 N034 33k
Q42 Pin6 N029 N015 0 NP
R2 Pin6 N023 30k
Q39 0 N036 N021 0 PN
R37 Pin11 0 1u
Q10 N045 N045 N042 0 NP
R7A2 N007 0 10k
Q35 0 N005 Pin3 0 PN
R33 N031 Pin12 200
R47 Pin2 N017 2.7k
Q11 N042 N043 0 0 NP
Q49 0 N030 N016 0 PN
Q51 Pin6 N028 N027 0 NP
R9 N037 N040 620
Q34 Pin6 N008 Pin3 0 NP
R4 Pin7 0 39k
Q13 N040 N047 0 0 NP
R18 N004 N005 27k
R7 N041 N042 40k
Q41 0 Pin6 N026 0 PN
V2 Pin6 0 10
Q29 Pin6 N004 N005 0 NP
Q45 0 Pin12 N034 0 PN
R6 N039 0 2.7k
R30 Pin6 N029 33k
R12 N050 0 100
Q48 0 N027 N017 0 PN
Q16 Pin4 N051 N052 0 NP
R42 N020 0 33k
R15 N055 0 4.7k
C2 Pin10 0 33n
Q44 Pin6 N034 Pin2 0 NP
D4 N025 N022 D
R43 Pin2 N018 10k
Rex5 Pin12 0 82k
R35 N036 Pin6 330
R20 Pin6 N008 27k
Q33 N008 N008 N009 0 NP
Q12 N042 N048 N046 0 NP
Q23 N054 N002 Pin6 0 PN
Q37 0 N013 N010 0 PN
Q38 Pin6 N021 N019 0 NP
Rex7 Pin7 Pin8 1u
Q5 Pin6 Pin8 Pin5 0 NP
Q14 N048 N048 N050 0 NP
Q32 0 N010 N006 0 PN
Rex4 Pin9 Pin6 10k
R41 Pin6 Pin1 5.2k
R44 N027 0 33k
R7B2 Pin6 N006 15k
.options method=gear
.tran 1
.backanno
.end
