* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL triout
* KICAD_SINGLETON_LABEL sinout
.include "ICL8038.lib"
R3 0 N007 82k
* KICAD_SYMBOL_LIB_ID XU1 icl8038:icl8038
* KICAD_SIM_PINS XU1 1=Pin1 2=Pin2 3=Pin3 4=Pin4 5=Pin5 6=Pin6 7=Pin7 8=Pin8 9=Pin9 10=Pin10 11=Pin11 12=Pin12
* KICAD_VALUE XU1 icl8038
XU1 NC_U1_1_1 sinout triout N003 N001 vdd N004 N004 squout N002 0 N007 ICL8038
R1 N003 vdd 10k
R4 vdd squout 82k
C1 N002 0 33n
R2 N001 vdd 10k
V1 vdd 0 10
.tran 1
.backanno
.end
