* D:\home\brosnan\books\circuits\Circuits-LTSpice\Logic-circuits\Logic-gates-transistors-BJTs.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 12
V2 Signal_1 0 PULSE(0 12 0 1n 1n 1 2 1)
V3 Signal_2 0 PULSE(0 12 0.5 1n 1n 1 2 1)
Q1 Vcc N002 N003 0 2N3904
Q2 N003 N005 AND_out 0 2N3904
R1 AND_out 0 4.7k
R2 N002 Signal_1 10k
R3 N005 Signal_2 10k
Q3 Vcc N001 OR_out 0 2N3904
Q4 Vcc N004 OR_out 0 2N3904
R4 OR_out 0 4.7k
R5 N001 Signal_1 10k
R6 N004 Signal_2 10k
Q5 NAND_out N007 N008 0 2N3904
Q6 N008 N009 0 0 2N3904
R7 Vcc NAND_out 4.7k
R8 N007 Signal_1 10k
R9 N009 Signal_2 10k
R10 N006 Signal_1 10k
R11 N006 Signal_2 10k
Q7 NOR_out N006 0 0 2N3904
R12 Vcc NOR_out 4.7k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 3
* NAND gate
* AND gate
* OR gate
* Logic gates with NPN transistors
* NOR gate
.backanno
.end
