* D:\home\brosnan\books\circuits\Circuits-LTSpice\Basics\PNP-transistor-biasing.asc
* Generated by LTspice 26.0.1 for Windows.
Q1 N003 N002 N001 0 2N2907
R1 N003 0 1
R3 N002 0 11.2k
V1 N001 0 12
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
* E
* B
* C
* PNP Transistor biasing
.backanno
.end
