* D:\home\brosnan\books\circuits\Circuits-LTSpice\Basics\Parallel-resistor-when-negligible.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N001 N002 50
R2 N002 0 50
R3 N002 0 {R}
V1 N001 0 10
.step param R 5k 10k 2.5k
.tran 10m
* When is a parallel resistor negligible?
.backanno
.end
